US04923885
4-(2-Naphthoyl)-3,5-dichlorotoluene
To a cold (-60° C.) stirred solution of 3,5-dichlorotoluene (2.5 g, 15.5 mmol) in 30 ml of dry tetrahydrofuran under a nitrogen atmosphere, a 2.6 M solution of n-butyllithium in hexane (6.3 ml, 16.3 mmol) was added slowly over 15 minutes. The reaction mixture was stirred for an additional 30 minutes at -60° C. and then treated dropwise with a solution of 2-naphthoyl chloride (2.95 g, 15.5 mmol) in 15 ml of dry tetrahydrofuran over 15 minutes. The reaction mixture was stirred for 4 hours at -60° C. and then quenched with 4 ml of saturated NH4Cl solution. The mixture was permitted to come to room temperature at which point it was diluted with 20 ml of water and 20 ml of ether. The layers were separated and the aqueous layer further extracted with ether. The combined extracts were washed with brine, dried with anhydrous magnesium sulfate and concentrated under reduced pressure to give 4.76 g of crude product. This material was chromatographed on silica gel (20:1 hexane:ethyl acetate) to give 1.71 g of pure product.

reactant | 3,5-dichlorotoluene | 15.5 mmol, 2.5 g | ClC=1C=C(C=C(C1)Cl)C | C7H6Cl2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 16.3 mmol, 6.3 ml | CCCCCC | C6H14
reactant | 2-naphthoyl chloride | 15.5 mmol, 2.95 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-(2-Naphthoyl)-3,5-dichlorotoluene | 1.71 g | C1=C(C=CC2=CC=CC=C12)C(=O)C1=C(C=C(C=C1Cl)C)Cl | C18H12Cl2O
